US08207334B2
5-Methyl-isoxazol-3-ylamine (392 mg, 3.99 mmol), dimethyl diacetoxyfumarate (1.04 g, 3.99 mmol) and p-toluenesulphonic acid (10 mg) were combined in a capped vial and heated to 100° C. After 5 h the reaction was cooled to room temperature and ethanol (2.5 mL) and iso-propyl ether (2.5 mL) was added to the residue which was sonicated for 15 min. The resulting precipitate collected by filtration and washed with cold ethanol (5 mL) and dried on the pump to afford 6-hydroxy-2-methyl-7-oxo-7H-isoxazolo[2,3-a]pyrimidine-5-carboxylic acid methyl ester (331 mg, 37%): 1H NMR (300 MHz, D6DMSO) δ 2.50 (3H, s, CH3), 3.84 (3H, s, OCH3), 6.67 (1H, s, H3), 10.31 (1H, br s, OH).

reactant | 5-Methyl-isoxazol-3-ylamine | 3.99 mmol, 392 mg | CC1=CC(=NO1)N | C4H6N2O
reactant | dimethyl diacetoxyfumarate | 3.99 mmol, 1.04 g | C(C)(=O)O\C(=C(/C(=O)OC)\OC(C)=O)\C(=O)OC | C10H12O8
reactant | iso-propyl ether | 2.5 mL | C(C)(C)OC(C)C | C6H14O
catalyst | p-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 6-hydroxy-2-methyl-7-oxo-7H-isoxazolo[2,3-a]pyrimidine-5-carboxylic acid methyl ester | 331 mg, 37% | COC(=O)C=1N=C2N(C(C1O)=O)OC(=C2)C | C9H8N2O5
